US07723329B2
Over five different reactions, liquid ammonia (about 10 mL) was added to a −78° C. solution of toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester (1.72 g, 3.63 mmol) in THF (48 mL). This was usually allowed to warm to ambient temperature. This was heated in sealed tube for about 16-35 hours at 70-100° C. After cooling to about ambient temperature, the combined reaction mixtures were then poured into excess sodium bicarbonate solution and extracted with chloroform or methylene chloride. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chlormatography with 0.75% ammonium hydroxide/7.5% methanol in chloroform. The residue was further purified by HPLC using 30-80% (chloroform/methanol(8:2)/TEA) in heptane/TEA. Concentrating and drying yielded 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethylamine as a white solid to which was added methanol and ethereal hydrochloride. Concentration and drying for 30 hours in vacuo at 83° C. yielded the hydrochloride as a cream-colored solid (0.0951 g, 7.4%): MP: >300° C.; Mass Spectrum (−EI, [M−H]−) m/z 316. 1HNMR (500 MHz, DMSO-d6): δ14.24(s, 1H), 8.09 (br,s, 3H), 7.96-7.98 (m, 2H), 7.56-7.68 (m, 4H), 7.39 (d, 1H, J=2.20 Hz), 7.17 (dd, 1H, J=9.15 Hz and 2.32 Hz), 4.22-4.25 (m, 2H), 3.20-3.24 ppm (m, 2H). Elemental Analysis for C15H15N3O3S.1.00 mol HCl.0.85 mol H2O: Calcd: C, 48.81; H, 4.83; N, 11.38; Found: C, 48.65; H, 4.77; N, 11.00.

reactant | ammonia | about 10 mL | N | H3N
reactant | toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester | 3.63 mmol, 1.72 g | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C22H20N2O6S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 48 mL | C1CCOC1 | C4H8O
product | 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethylamine | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCN | C15H15N3O3S
